US06777428B1
4-[3-(2,3,6-trifluorobenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and 2,3,6-trifluorobenzoyl chloride (30 μL, 0.229 mmol) and mixing for 24 h, 47.7 mg (>100%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 2,3,6-trifluorobenzoyl chloride | 0.229 mmol, 30 μL | FC1=C(C(=O)Cl)C(=CC=C1F)F | C7H2ClF3O
product | 4-[3-(2,3,6-trifluorobenzamidyl)benzoyl]-1-methylpiperidine | FC1=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C(=CC=C1F)F | C20H19F3N2O2
